US07528136B2
{(2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidin-2-yl}-[4-(2-methoxy-phenyl)-piperazin-1-yl]-methanone
As described for Example 64e, (2S,4S)-1-(3-chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 1-(2-methoxy-phenyl)-piperazine instead of 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one, to the title compound (40 mg) in 7% yield as colorless oil. MS m/e=570.1 [M+H]+.

reactant | (2S,4S)-1-(3-chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid | 1 mmol | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N(C)CC2=C(C=C(C=C2)F)F)C(=O)O)C=CC1 | C20H21ClF2N2O2
reactant | 1-(2-methoxy-phenyl)-piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | {(2S,4S)-1-(3-Chloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidin-2-yl}-[4-(2-methoxy-phenyl)-piperazin-1-yl]-methanone | 40 mg, 7% yield | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N(C)CC2=C(C=C(C=C2)F)F)C(=O)N2CCN(CC2)C2=C(C=CC=C2)OC)C=CC1 | C31H35ClF2N4O2
